US05219871
Preparation of 5-(N-benzyl-N-methylamino)-2,2-diphenyl-5-methylhexanamide
A solution of 4-(N-benzyl-N-methylamino)-1-cyano-1,1-diphenyl-4-methylpentane (1.0 g-see Preparation 12) in 90% sulphuric acid (10 ml) was heated at 90° for 1 hour. The mixture was poured onto ice (100 g), basified to a pH of about 12 by the addition of 40% aqueous sodium hydroxide and extracted with dichloromethane (2×100 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 4%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield 0.6 g.

reactant | 4-(N-benzyl-N-methylamino)-1-cyano-1,1-diphenyl-4-methylpentane | 1.0 g | C(C1=CC=CC=C1)N(C)C(CCC(C1=CC=CC=C1)(C1=CC=CC=C1)C#N)(C)C | C27H30N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(N-benzyl-N-methylamino)-2,2-diphenyl-5-methylhexanamide | C(C1=CC=CC=C1)N(C)C(CCC(C(=O)N)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C27H32N2O
